US05602253
(i) 4-cyanobenzyl azide
A solution of 20.23 g (0.31 mol) sodium azide in 50 ml water was added to 49.15 g (251 mmol) 4-cyanobenzyl bromide in 200 ml DMF at ambient temperature. An exothermic reaction took place and after 1.5 h the reaction mixture was diluted with 200 ml toluene (caution: In order to avoid separation of potentially explosive azide compounds it is adviceable to add the toluene to the rection mixture before addition of the water) and 500 ml water. The aqueous phase was extracted with an additional 2×50 ml toluene. The combined organic extracts were washed with 2×50 ml water and brine and finally dried (MgSO4) and filtered. The solution was used as such in the next step.

reactant | sodium azide | 0.31 mol, 20.23 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-cyanobenzyl bromide | 251 mmol, 49.15 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
solvent | water | 50 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-cyanobenzyl azide | C(#N)C1=CC=C(CN=[N+]=[N-])C=C1 | C8H6N4
